US09034855B2
[(tert-Butoxycarbonyl)amino](2,3-dichlorophenyl)acetic acid
A solution of 500 mg (2.27 mmol) of amino(2,3-dichlorophenyl)acetic acid in 25 ml of 5% strength aqueous sodium bicarbonate solution was diluted with 25 ml of dioxane, and 532 ml (2.32 mmol) of di-tert-butyl dicarbonate were added. The reaction mixture was stirred at RT overnight. For work-up, 150 ml of 1N hydrochloric acid were added, and the product was extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and freed from the solvent on a rotary evaporator. The residue was dried under high vacuum. This gave 750 mg (quant. yield) of the title compound.

reactant | amino(2,3-dichlorophenyl)acetic acid | 2.27 mmol, 500 mg | NC(C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C8H7Cl2NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 2.32 mmol, 532 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | [(tert-Butoxycarbonyl)amino](2,3-dichlorophenyl)acetic acid | 750 mg, quant. yield | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C13H15Cl2NO4
